US08242104B2
A mixture of N-Boc piperazine (101 mg, 0.54 mmol), 2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene-9-carboxylic acid (180 mg, 0.53 mmol), EDCI (151 mg, 0.79 mmol), HOBt (107 mg, 0.795 mmol) and triethylamine (216 μL, 1.54 mmol) in DMF (2 mL) was stirred at RT for 20 h. The mixture was diluted with ethyl acetate and washed (water, saturated aqueous sodium hydrogen carbonate and then brine), dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0 to 10% MeOH in DCM) to give 4-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene-9-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester (258 mg, 96%). The intermediate carboxylic acid tert-butyl ester was dissolved in DCM (20 mL) and treated with 4N HCl in dioxane (4 mL) and stirred for 3 h at RT before adding diethyl ether (20 mL). The resultant precipitate was collected by filtration and washed with diethyl ether to give 145 as a white solid (209 mg, 93%). 1H NMR (400 MHz, DMSO-d): δ 9.32 (s, 2H); 8.37 (s, 1H); 8.31 (d, J=2.20 Hz, 1H); 8.06 (s, 1H); 7.44 (dd, J=8.37, 2.21 Hz, 1H); 7.15 (d, J=8.37 Hz, 1H); 5.32-5.23 (m, 1H); 4.37 (t, J=4.98 Hz, 2H); 3.77 (s, 4H); 3.15 (t, J=6.94 Hz, 6H); 1.51 (d, J=6.59 Hz, 6H). LCMS: RT=6.02 min, M+H+=408

reactant | N-Boc piperazine | 0.54 mmol, 101 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene-9-carboxylic acid | 0.53 mmol, 180 mg | C(C)(C)N1N=CN=C1N1C=C2CCOC3=C(C2=N1)C=C(C=C3)C(=O)O | C17H17N5O3
reactant | EDCI | 0.79 mmol, 151 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.795 mmol, 107 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 1.54 mmol, 216 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene-9-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester | 258 mg, 96% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C=1C=CC2=C(C3=NN(C=C3CCO2)C=2N(N=CN2)C(C)C)C1 | C26H33N7O4
